US04337256
A mixture of 7.5 g of 1-(4-bromophenyl)isoquinoline-5-acetonitrile, 70 ml of acetic acid and 35 ml of 50% sulfuric acid was heated with stirring for 3 hours. After the reaction, water was added, and the pH of the reaction mixture was adjusted to 2 with an aqueous solution of sodium hydroxide. The crystals that precipitated were collected by filtration, and recrystallized from tetrahydrofuran-acetone to afford 7.0 g of 1-(4-bromophenyl)isoquinoline-5-acetic acid having a melting point of 230.5° to 232.5° C.

reactant | 1-(4-bromophenyl)isoquinoline-5-acetonitrile | 7.5 g | BrC1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC#N | C17H11BrN2
reactant | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(4-bromophenyl)isoquinoline-5-acetic acid | 7.0 g | BrC1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC(=O)O | C17H12BrNO2
